US03966942
A mixture of 5 g. (0.033 m.) of 3-ethylrhodanine, 12 ml. of triethylorthoacetate and 35 ml. of acetic anhydride is heated under reflux for 18 hours and the solution is then concentrated in vacuo. The cooled residue is filtered and the solid is dissolved in ether. The ether solution is washed with water, dried and evaporated in vacuo to give 5-(1'-ethoxyethylidene)-3-ethylrhodanine. The latter (3.6 g.) is stirred with 15 ml. of dioxane, 15 ml. of water and 15 ml. of 10% sodium hydroxide solution for 4 hours. The resulting solution is concentrated in vacuo at 40°C. and the aqueous solution is washed with ether, decolorized, then made acidic with dilute hydrochloric acid. The precipitate is dissolved in 10% sodium hydroxide solution, washed with ether and the aqueous solution is made acidic with dilute hydrochloric acid to give the product, 3-ethyl-5-(1'-hydroxyethylidene)-rhodanine, m.p. 93°C.

reactant | 3-ethylrhodanine | C(C)N1C(SCC1=O)=S | C5H7NOS2
reactant | triethylorthoacetate | C(C)C(C([O-])([O-])[O-])(CC)CC
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 5-(1'-ethoxyethylidene)-3-ethylrhodanine | C(C)OC(C)=C1C(N(C(S1)=S)CC)=O | C9H13NO2S2
